US05389641
27a) Methyl 4-(1-pyrrolyl)benzoate
To a stirred solution of methyl 4-aminobenzoate (7.6 g) in acetic acid (25 ml) was added 2,5-dimethoxytetrahydrofuran (6.6 g) dropwise and the reaction mixture was heated under reflux for 1 hour and then diluted with water. The resulting precipitated crystals were purified by column chromatography on silica gel. Recrystallization from ethyl acetate-hexane afforded the title compound as colorless plates (7.5 g, 74%), m.p. 128°-129° C.

reactant | methyl 4-aminobenzoate | 7.6 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | 2,5-dimethoxytetrahydrofuran | 6.6 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | Methyl 4-(1-pyrrolyl)benzoate | N1(C=CC=C1)C1=CC=C(C(=O)OC)C=C1 | C12H11NO2
